Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Etodolac / Lisinopril / Keflex / Sulfa 
(Sulfonamide Antibiotics) / Bacitracin
 
Attending: ___
 
___ Complaint:
s/p Fall
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ w/ h/o HTN, hypothyroidism, and Alzheimer's disease s/p 
unwitnessed fall this morning in bathroom. Patient lives in an 
assisted living facility where she has regular care providers, 
and has had gradual deterioration of her cognitive function over 
the past year- no longer recognizes her daughter at times, has 
trouble dressing herself and at times eats inappropriate objects 
(purell, oil, vinegar). She spent the day prior to admission 
with her family where per her daughter she was behaving at her 
baseline. The daughter notes the patient complained of a little 
bit of leg pain that resolved prior to her going to sleep. She 
was found by one of her care givers in the morning on the floor 
in the bathroom, awake and alert per report. The patient has no 
recollection of the event but is a limited historian ___ her 
dementia. Daughter wonders if the patient was exhausted from her 
Christmas celebation and fell in that setting. Per report, no 
fevers, chills, no CP, SOB, palpitations. Appetite has been good 
and patient has been compliant w/ medications. Last fall was 
over one year ago. No h/o syncope or seizures. Uses walker 
consistently and has not been noted to be more unsteady. Has 
care assistants who stay with her all night and a couple days a 
week.  
 
In the ED, initial vital signs were T 98.8 P 77 BP 156/65 R 22 
O2 97% on RA. On exam, patient was oriented only to herself. 
Patient c/o pain everywhere, but especially in b/l hips. Patient 
underwent FAST scan which was negative, notable only for a large 
anterior pericardial fat pad. Also underwent CT torso, CT 
C-spine, CT head and plain films of her hips which were all 
negative for acute process or fracture. Labs were notable for 
creatinine at baseline of 1.3, normal coags, and UA w/ few 
bacteria, 1 WBC, neg nitrite and neg ___. EKG was w/o ischemic 
changes but did show first degree heart block. She is being 
admitted to medicine for syncope work up. VS on transfer: T 97.8 
HR63 BP 163/74 RR22 98% on 2L.  
 
On the floor, patient is pleasant and oriented to her self. She 
denies any pain, but on exam, reports difficulty moving her R 
leg.  
Review of Systems (obtained from daughter as pt is limited 
historian):  
(+) Per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
HTN  
Chronic ___ edema  
Hypothyroidism  
Paraesophageal hernia  
Restless leg syndrome  
Alzheimer's disease  
Osteoarthritis  
h/o SCC and BCC s/p removal  
s/p TAH/BSO  
s/p appy  

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION EXAM:
Vitals- T100.6 BP 187/80 --> 168/88 HR 69 RR 18 O2 sat 97% on 
2L; Wt 103.4 kg  
General- Alert, oriented to self, no acute distress, pleasant  
HEENT- Sclera anicteric, dry MM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- poor effort, but Clear to auscultation bilaterally, no 
wheezes, rales, ronchi  
CV- Regular rate and rhythm, normal S1 + S2, II/VI systolic 
murmur at LUSB, no rubs, gallops  
Abdomen- soft, mildly distended, non-tender, no rebound 
tenderness or guarding, no organomegaly  
GU- Foley in place  
Ext- 1+ b/l edema; chronic venous stasis changes w/ mild 
erythema, but non tender to palpation; warm, well perfused, 2+ 
pulses, no clubbing, cyanosis; intact blister of R great toe  
Neuro- CNs2-12 intact, motor function grossly normal, though 
decreased movement of R ___ no pronator drift, ___ LLE flexion, 
extension, ___ dorsi and plantar flexion; intact sensation  

DISCHARGE EXAM:
Vitals- 98.2 - 119/68 - 53 - 18 - 97RA 
i/o nr/300, yest ___
Wt 101.9kg<-- 103.4 kg on ___
General- Alert, oriented to self only, no acute distress, 
pleasant  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- mild bilateral expiratory wheezes, no rhonchi, but good 
air movement  
CV- Regular rate and rhythm, normal S1 + S2, II/VI systolic 
murmur at LUSB, no rubs, gallops  
Abdomen- soft, mildly distended, non-tender, no rebound 
tenderness or guarding, no organomegaly  
GU- Foley in place 
Ext- trace b/l edema, ___ stockings on, pain w palpation of 
creases in stockings, RUE posterior area w/ extensive bruising 
and dried blood, not actively bleeding.
Neuro- CNs2-12 intact, motor function grossly normal, improved 
movement of R ___ no pronator drift, ___ LLE flexion, extension, 
___ dorsi and plantar flexion; intact sensation
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:30AM   WBC-5.3 RBC-3.75* HGB-12.3 HCT-37.2 MCV-99* 
MCH-32.8* MCHC-33.1 RDW-12.3
___ 09:30AM   NEUTS-81.8* LYMPHS-9.7* MONOS-6.2 EOS-1.8 
BASOS-0.4
___ 09:30AM   PLT COUNT-211
___ 09:30AM   ___ PTT-27.6 ___
___ 09:30AM   TSH-4.8*
___ 09:30AM   FREE T4-1.3
___ 09:30AM   GLUCOSE-231* UREA N-23* CREAT-1.3* SODIUM-137 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-26 ANION GAP-16
___ 09:30AM   CALCIUM-9.3 PHOSPHATE-2.9 MAGNESIUM-1.6
___ 09:30AM BLOOD VitB12-577

DISCHARGE LABS:
===============
___ 06:00AM BLOOD WBC-4.8 RBC-3.53* Hgb-11.6* Hct-35.2* 
MCV-100* MCH-32.9* MCHC-33.0 RDW-12.8 Plt ___
___ 10:33AM BLOOD Glucose-219* UreaN-38* Creat-1.4* Na-135 
K-4.0 Cl-101 HCO3-23 AnGap-15
___ 10:33AM BLOOD Calcium-8.0* Phos-3.2 Mg-1.8

URINE STUDIES
=============
___ 09:50AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:50AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:50AM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 02:08PM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:08PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-MOD
___ 02:08PM URINE RBC-1 WBC-15* Bacteri-MANY Yeast-NONE 
Epi-0 TransE-<1
___ 02:08PM URINE Mucous-FEW

STUDIES:
========
CT HEAD: No acute intracranial process.

Hip XR: Nonobstructive bowel gas pattern. Bowel gas and bowel 
contents obscure the bony detail of the sacrum. Incompletely 
evaluated is degenerative changes of the lower lumbar spine. 
Mild SI joint degenerative changes. Intact pubic symphysis. 
Bilateral hip joint space narrowing, more on the right. No 
dislocations. No fractures identified. Degenerative changes of 
the bilateral  
knees.  
 
IMPRESSION: No radiographic evidence for fracture. Please see CT 
torso from later today for further details.  

EKG: Sinus at 77 bpm. Normal axis. 1st degree AV block. <___epression and TWI in V2 (new), old TWI in III, otherwise 
similar to prior. Qtc 411.  

CXR ___: In comparison with study of ___, there is no 
evidence of 
pneumothorax.  Although no rib fracture is seen, if this is a 
serious clinical concern, oblique views could be obtained.  
There is continued enlargement of the cardiac silhouette, 
accentuated by the lordotic position of the patient. No vascular 
congestion or acute focal pneumonia.

CXR ___
FINDINGS:  In comparison with the study of ___, there are 
lower lung 
volumes.  Continued enlargement of the cardiac silhouette 
without appreciable 
vascular congestion.  The discordancy raises a possibility of 
cardiomyopathy 
or pericardial effusion. 
  
No definite evidence of acute pneumonia.  However, a lateral 
view would be of 
value if the condition of the patient permits, in order to 
assess for 
retrocardiac consolidation. 

___ CT Torso:
CT CHEST WITH INTRAVENOUS CONTRAST: There is a subcentimeter 
nodule within the right lobe of thyroid gland (102:2). No 
supraclavicular, axillary, mediastinal, or hilar lymphadenopathy 
is identified. The thoracic aorta is non-aneurysmal and 
demonstrates no signs of traumatic injury on this venous phase 
study. No central pulmonary embolism is identified. Mild ectasia 
of the right pulmonary artery may be due to underlying pulmonary 
hypertension. There is no mediastinal hematoma. Moderate 
cardiomegaly is noted, however, there is no pericardial 
effusion. Mild coronary atherosclerotic calcifications are 
noted. There are dense mitral annular calcifications.  
 
The tracheobronchial tree is patent to subsegmental levels 
without bronchial wall thickening or bronchiectasis. There is 
bibasilar atelectasis but no confluent consolidation or pleural 
effusion. No suspicious pulmonary nodules are identified. There 
is no pneumothorax or pneumomediastinum.  
 
CT ABDOMEN WITH INTRAVENOUS CONTRAST: There is a minimal 
residual hiatal hernia, significantly improved compared to prior 
examination. The liver demonstrates homogeneous parenchymal 
enhancement without suspicious focal lesion. The hepatic veins 
and portal venous system are grossly patent. No intra- or 
extra-hepatic biliary ductal dilatation is identified. The 
gallbladder, spleen, and adrenal glands appear normal. A coarse 
calcification adjacent to the splenic hilum may be a small 
granuloma or a calcified splenic artery aneurysm. There is fatty 
atrophy of the pancreas which is otherwise unremarkable. 
Multiple hypodense lesions throughout both kidneys are simple 
cysts and others remain too small to characterize. The largest 
is located within the interpolar region of the left kidney and 
measures 3.0 x 3.4 cm. No perinephric fluid collection or renal 
laceration is identified. There is no abdominal free fluid or 
free air. The abdominal aorta and its branch vessels demonstrate 
severe atherosclerotic calcifications though are non-aneurysmal 
and grossly patent. Stomach and small bowel loops are normal in 
caliber and  
configuration without evidence of obstruction or inflammation. 
No  
pathologically enlarged mesenteric or retroperitoneal lymph 
nodes are identified.  
 
CT PELVIS WITH INTRAVENOUS CONTRAST: There are scattered colonic 
diverticuli though no signs of acute diverticulitis. A Foley 
catheter and a small amount of air is seen within a decompressed 
bladder. No pelvic free fluid is identified. The uterus and 
adnexa are not visualized likely secondary to prior surgical 
resection. No pathologically enlarged pelvic or inguinal lymph 
nodes are identified.  
 
BONES AND SOFT TISSUES: There is a moderate fat-containing 
ventral hernia (102:82). There is no fracture or bone 
destructive lesion. Multilevel degenerative changes of the spine 
are noted with moderate levoscoliosis and degenerative changes 
most severe at T12-L1 and L1-L2.  
 
IMPRESSION:  
No traumatic pathology within the chest, abdomen or pelvis.  

MICRO:
___ URINE URINE CULTURE-FINAL 
___ URINE CULTURE
       KLEBSIELLA PNEUMONIAE                            |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
LEVOFLOXACIN----------<=0.12 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE.
=====================
___ year old lady with history of hypertension, hypothyroidism, 
and advanced Alzheimer's dementia who presented from home after 
a fall. She was found to have UTI with klebsiella as well as 
bronchitis. She was sent home with 24 hour care.

ACTIVE ISSUES.
==============
# Unwitnessed Fall: Unclear if this was a mechanical fall vs. 
syncope as it was unwitnessed and patient has no recollection of 
event secondary to her underlying dementia. No history of prior 
syncope or seizure and her last fall was over ___ year ago. Per 
her daughter, she has been steady walking with walker and was 
without infectious symptoms. Syncope differential includes 
orthostasis, arrhythmia (new prolonged PR interval on EKG), 
hypothyroidism. Infectious workup on admission was negative, 
though she did have some evidence of mild bronchitis.  Extensive 
imaging with CT was also unrevealing. She did have a low grade 
temperature, and given her second urine culture while in house 
grew klebsiella, she was treated with antibiotics (see below). 
Acute MI highly unlikely given no new ischemic changes on EKG 
nor chest pain. Telemetry was unrevealing, though she did have 
new prolonged PR interval. B12 wnl. TSH was mildly elevated, but 
lower than in past few readings.
- Overall her fall could have been multifactorial, due to 
infectious processes, deconditioning, and progressive dementia.

#UTI: Recent urinalysis in house was suggestive of UTI 
(leukocytes, WBCs, and many bacteria). Urine culture grew 
klebsiella sensitive to levofloxacin. Her UTI may have been 
caused by instrumentation of the GU tract in the setting of 
chronic severe urinary retention.
- She was discharged on a short course of levofloxacin (5 days).

# Mild Bronchitis: On admission, she had an oxygen requirement 
of 2L. She was not on oxygen at home. She improved to high ___ 
on room air. Chest imaging showed no evidence of pulmonary edema 
or pneumonia (though no lateral film was obtained). Exam and 
clinical picture are consistent with bronchitis. She was started 
on a 5 day course of levofloxacin to cover for this. She was 
also treated with albuterol nebulizers.

# Hypertension: Hypertensive on arrival, but she had not taken 
home anti-hypertensives. 
- Valsartan and hydrochlorothiazide was stopped given her acute 
kidney injury. She was continued on metoprolol and doxazosin, 
and was started on amlodipine. 

# Hypothyroidism: History of recently elevated TSH (7.1 in ___ 
with normal T4. Now w/ TSH of 4.8, improved, but still high. 
Unlikely to be etiology of fall. 
- continue home synthroid for now
- free T4 WNL, high TSH was mild

# Hyponatremia: Short-lived, resolved. ___ have been 
hypervolemic given new crackles on lung exam. Improved with 
diuresis.

# Urinary retention: She has a history of severe asymptomatic 
urinary retention with PVRs as great as ___ mL. No history 
of incontinence and does void at times, likely overflow, but 
straight caths 4x/week at home per Dr. ___ recommendations. 
She had a foley catheter briefly twice in house given her 
urinary retention. She was also straight cathed. At home, she 
should straight cath daily. UTI was treated as above.

# Acute on chronic kidney injury: Resolving by the time of 
discharge, likely due to over-diuresis (she was given IV 
furosemide, which caused her creatinine to bump). As creatinine 
was improving after down-titration of diuretics, further work-up 
___ due to urinary retention was not deemed necessary.

CHRONIC ISSUES
==============
# Alzheimer's dementia: In house she was very pleasant, without 
evidenceof agitation. She has severe Alzheimer's disease, seen 
by cognitive neurology in ___ and scored ___ on MMS. At that 
time, she was noted to have continued deterioration with poor 
recognition of her daughter, more problems with ADLs and "will 
sometimes make mistakes such as putting toothpaste on her cheeks 
or using lipstick on her eyebrows." Per Neurology note, she is 
already on maximal medical therapy and management at this time 
may be directed by geriatrics. If there is further progression, 
placement in a Alzheimer's unit may be considered.
She was continued on her home memantine and donepezil. She was 
frequently re-oriented, and tethers were minimized as much as 
possible. Her home care attendant stayed with her 24 hours. She 
was also treated with a moderate bowel regimen and pain was 
treated appropriately. 

# Venous stasis: She has chronic skin changes, but no evidence 
of skin breakdown exam. She reported pain at the site of creases 
in her ___ stockings, which improved with massage and frequent 
re-positioning of the stockings. 

# Chronic kidney disease: This may be secondary to long history 
of hypertension. Please see discussion of kidney injury above.

# Chronic pain: She was continued on her home acetaminophen, 
oxycontin, and oxycodone. 

TRANSITIONAL ISSUES
===================
- Code status: DNR/DNI (discussed with daughter/HCP Pat)  
- Emergency Contact: ___ ___, HCP.
- Studies pending on discharge: None.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 6 mg PO DAILY 
hold for sbp<100 
2. Acetaminophen 650 mg PO BID pain 
2 tabs in AM, 1 tab qHS 
3. Mupirocin Nasal Ointment 2% 1 Appl NU BID:PRN wound 
4. Benzonatate 100 mg PO HS:PRN cough 
5. Metoprolol Succinate XL 100 mg PO DAILY 
hold for sbp<100, hr<60 
6. Docusate Sodium 100 mg PO BID 
7. Senna 1 TAB PO 4X/WEEK (___) 
8. Memantine 10 mg PO BID 
9. Furosemide 20 mg PO 4X/WEEK (___) 
10. Multivitamins 1 TAB PO DAILY 
11. pramipexole *NF* 0.5 mg Oral qHS 
12. Oxycodone SR (OxyconTIN) 20 mg PO HS 
hold for sedation, RR<10 
13. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO QAM, QPM 
and ___ tab qHS 
14. Oxycodone SR (OxyconTIN) 10 mg PO QAM 
hold for sedation, RR<10 
15. melatonin *NF* 2 mg Oral qHS 
16. Donepezil 10 mg PO DAILY 
17. Nystatin Ointment 1 Appl TP BID:PRN rash 
18. Calcium Carbonate 500 mg PO 3X/WEEK (___) 
19. Potassium Chloride 10 mEq PO 4X/WEEK (___) Duration: 
24 Hours 
Hold for K > 
20. Aspirin 81 mg PO DAILY 
21. Collagenase Ointment 1 Appl TP DAILY right leg ulcer 
22. Levothyroxine Sodium 50 mcg PO DAILY 
23. Vitamin B Complex 1 CAP PO DAILY 
24. Vitamin D ___ UNIT PO DAILY 
25. valsartan-hydrochlorothiazide *NF* 320-25 mg Oral daily 

 
Discharge Medications:
1. Acetaminophen 650 mg PO BID pain 
2 tabs in AM, 1 tab qHS 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO 3X/WEEK (___) 
4. Docusate Sodium 100 mg PO BID 
5. Donepezil 10 mg PO DAILY 
6. Doxazosin 6 mg PO DAILY 
hold for sbp<100 
7. Levothyroxine Sodium 50 mcg PO DAILY 
8. Memantine 10 mg PO BID 
9. Metoprolol Succinate XL 100 mg PO DAILY 
hold for sbp<100, hr<60 
10. Multivitamins 1 TAB PO DAILY 
11. Nystatin Ointment 1 Appl TP BID:PRN rash 
12. Oxycodone SR (OxyconTIN) 20 mg PO HS 
hold for sedation, RR<10 
13. Oxycodone SR (OxyconTIN) 10 mg PO QAM 
hold for sedation, RR<10 
14. Vitamin B Complex 1 CAP PO DAILY 
15. Vitamin D ___ UNIT PO DAILY 
16. Senna 1 TAB PO HS 
17. Amlodipine 10 mg PO DAILY 
please hold for SBP < 100 
RX *amlodipine 10 mg ONE tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
18. Benzonatate 100 mg PO HS:PRN cough 
19. Collagenase Ointment 1 Appl TP DAILY right leg ulcer 
20. melatonin *NF* 2 mg Oral qHS 
21. Mupirocin Nasal Ointment 2% 1 Appl NU BID:PRN wound 
22. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO QAM, QPM 
and ___ tab qHS 
23. pramipexole *NF* 0.5 mg Oral qHS 
24. Furosemide 20 mg PO EVERY OTHER DAY:PRN leg swelling 
please hold for SBP<100 
25. Potassium Chloride 10 mEq PO EVERY OTHER DAY: PRN furosemide 
dose Duration: 24 Hours 
please give on days when she gets furosemide. 
26. Guaifenesin ER 600 mg PO Q12H Duration: 5 Days 
RX *guaifenesin 600 mg one tablet(s) by mouth every 12 hours 
Disp #*10 Tablet Refills:*0
27. Levofloxacin 750 mg PO Q48H Duration: 5 Days 
dose ___, next dose ___, last dose ___. 
RX *levofloxacin 750 mg one tablet(s) by mouth every other day 
Disp #*2 Tablet Refills:*0
28. Polyethylene Glycol 17 g PO DAILY:PRN constipation Duration: 
5 Days 
RX *polyethylene glycol 3350 17 gram 17 grams by mouth daily 
Disp #*14 Packet Refills:*0
29. Sarna Lotion 1 Appl TP QID:PRN itchy skin 
RX *camphor-menthol   apply to skin every 6 hours Disp #*222 
Milliliter Refills:*0
30. Home equipment
Please dispense a gait transfer belt.
31. Home equipment
Please dispense a bedside commode for decreased mobility.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:  
Fall 
Urinary retention 
 
Secondary: 
Diastolic heart failure 
Alzheimer's dementia 
Hypothyroidism 
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital after a fall. ___ had imaging 
of your body which showed no evidence of fracture or injury. ___ 
were seen by physical therapy who recommended that ___ go to a 
rehab to get strong. ___ did have urinary retention in the 
hospital, which was managed by straight catheters. 

While ___ were here, we made some changes to your medications. 
This includes changing the frequency of your furosemide and 
potassium supplements, stopping your valsartan, and increasing 
your senna due to constipation. We also started senna for 
constipation. We started levofloxacin for UTI and bronchitis. 
Finally, we started guiafenesin for cough. Please review your 
medication sheet to see these changes.

It was a pleasure taking care of ___. We wish ___ a speedy 
recovery!
 
Followup Instructions:
___